US08309545B2
5-Acetyl-6-(3-phenylpropoxy)benzofuran
5-Acetyl-6-hydroxybenzofuran (60 mg, 0.34 mmol) and 1-bromo-3-phenylpropane were reacted according to General Procedure A. The crude residue was purified by flash chromatography, eluting with diethyl ether:petroleum ether (1:9) to afford the title compound as a white solid (81 mg, 81%). 1H NMR (300 MHz, CDCl3): δ 2.26-2.16 (m, 2H), 2.69 (s, 3H), 2.85 (t, J=7.3 Hz, 2H), 4.07 (t, J=6.3 Hz, 2H), 6.72 (d, J=1.7 Hz, 1H), 6.99 (s, 1H), 7.32-7.19 (m, 5H), 7.54 (d, J=2.2 Hz, 1H), 7.99 (s, 1H). MS (ES+) m/z 294.9 (M+H+).

reactant | 5-Acetyl-6-hydroxybenzofuran | 0.34 mmol, 60 mg | C(C)(=O)C=1C(=CC2=C(C=CO2)C1)O | C10H8O3
reactant | 1-bromo-3-phenylpropane | BrCCCC1=CC=CC=C1 | C9H11Br
product | 5-Acetyl-6-(3-phenylpropoxy)benzofuran | 81 mg, 81% | C(C)(=O)C=1C(=CC2=C(C=CO2)C1)OCCCC1=CC=CC=C1 | C19H18O3
